US07560558B2
Compound 219: [3-(6,7-Dimethoxy-quinolin-4-yloxy)-6-methyl-pyridin-2-yl]-(6-methyl-pyridin-2-yl)-methyl acetate
[3-(6,7-Dimethoxy-quinolin-4-yloxy)-6-methyl-pyridin-2-yl]-(6-methyl-pyridin-2-yl)-methanol (43 mg) was dissolved in chloroform (6 ml) to prepare a solution. Triethylamine (0.9 ml) and acetic anhydride (0.45 ml) were added to the solution, and the mixture was stirred at room temperature overnight. Water was added to the reaction solution, and the mixture was extracted with chloroform. The chloroform layer was washed with saturated brine and was dried over anhydrous sodium sulfate. The solvent was removed by distillation under the reduced pressure, and the residue was purified by thin layer chromatography using chloroform-acetone to give the title compound (28 mg, yield 61%).

reactant | [3-(6,7-Dimethoxy-quinolin-4-yloxy)-6-methyl-pyridin-2-yl]-(6-methyl-pyridin-2-yl)-methanol | 43 mg | COC=1C=C2C(=CC=NC2=CC1OC)OC=1C(=NC(=CC1)C)C(O)C1=NC(=CC=C1)C | C24H23N3O4
reactant | Triethylamine | 0.9 ml | C(C)N(CC)CC | C6H15N
reactant | acetic anhydride | 0.45 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | Water | O | H2O
solvent | chloroform | 6 ml | C(Cl)(Cl)Cl | CHCl3
product | [3-(6,7-Dimethoxy-quinolin-4-yloxy)-6-methyl-pyridin-2-yl]-(6-methyl-pyridin-2-yl)-methyl acetate | 28 mg, yield 61% | C(C)(=O)OC(C1=NC(=CC=C1)C)C1=NC(=CC=C1OC1=CC=NC2=CC(=C(C=C12)OC)OC)C | C26H25N3O5
